US06979694B2
Preparation of 2-Amino-N-(2,4,6-trimethylphenyl)-4-methyl-5-thiazolecarboxamide
A solution of [5-[[(2,4,6-Trimethylphenyl)amino]carbonyl]-4-methyl-2-thiazolyl]carbamic acid, 1,1-dimethylethyl ester (10 g, 26.63 mmol) in trifluoroacetic acid (100 mL) was stirred at rt for 3 h. The solution was concentrated under reduced pressure and the residue was diluted with EtOAc (700 mL), washed with 5% aq. KHCO3 solution (400 mL, 2×), water, and brine; dried (MgSO4), filtered and concentrated. The residue was washed with ether (200 mL) and acetonitrile (100 mL) to obtain the title compound (6.7 g, 91%) as a white solid.

reactant | [5-[[(2,4,6-Trimethylphenyl)amino]carbonyl]-4-methyl-2-thiazolyl]carbamic acid, 1,1-dimethylethyl ester | 26.63 mmol, 10 g | CC1=C(C(=CC(=C1)C)C)NC(=O)C1=C(N=C(S1)NC(OC(C)(C)C)=O)C | C19H25N3O3S
solvent | trifluoroacetic acid | 100 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-Amino-N-(2,4,6-trimethylphenyl)-4-methyl-5-thiazolecarboxamide | 6.7 g, 91% | NC=1SC(=C(N1)C)C(=O)NC1=C(C=C(C=C1C)C)C | C14H17N3OS
